US08859817B2
Synthesis of methyl 2-(2-chlorophenyl)-(R)-2-hydroxyacetate
15 g of (R)-2-chloromandelic acid was mixed with methanol (CH3OH, 150 ml) and phosphorus chloride oxide (POCl3, 0.76 ml) in a flask by stirring using a magnetic stirrer at the room temperature for 6 hours. When the reaction was completed, the obtained product was washed with an aqueous solution of sodium sulfite (Na2SO3) and ethylacetate (EA). Then, the organic layer was dehydrated with anhydrous magnesium sulfate (MgSO4), filtrated, and concentrated under reduced pressure. The concentrated residue was purified by a silica gel column chromatography to produce the title compound (15.64 g, yield 95%).

reactant | (R)-2-chloromandelic acid | 15 g | ClC1=C([C@H](C(=O)O)O)C=CC=C1 | C8H7ClO3
reactant | phosphorus chloride oxide | 0.76 ml | P(Cl)(Cl)(Cl)=O | Cl3OP
reactant | methanol | 150 ml | CO | CH4O
product | methyl 2-(2-chlorophenyl)-(R)-2-hydroxyacetate | 15.64 g, yield 95% | ClC1=C(C=CC=C1)[C@H](C(=O)OC)O | C9H9ClO3
